US05124336
50 g of 5-(dioxolan-2-yl)-4,4-dimethylvaleronitrile, prepared in D], are dissolved in 1.3 l of acetone in the presence of 140 ml of concentrated hydrochloric acid and 700 ml of water. The mixture is stirred at room temperature for 5 hours, the acetone is concentrated under vacuum and the residue is taken up with ether, washed with water and then evaporated to dryness to give 35 g of 5-formyl-4,4-dimethylvaleronitrile.

reactant | 5-(dioxolan-2-yl)-4,4-dimethylvaleronitrile | 50 g | O1C(OCC1)CC(CCC#N)(C)C | C10H17NO2
solvent | acetone | 1.3 l | CC(=O)C | C3H6O
solvent | hydrochloric acid | 140 ml | Cl | ClH
solvent | water | 700 ml | O | H2O
product | 5-formyl-4,4-dimethylvaleronitrile | 35 g | C(=O)CC(CCC#N)(C)C | C8H13NO
